Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
lisinopril / amiodarone / atorvastatin / Cipro
 
Attending: ___.
 
Chief Complaint:
Dyspnea, Chest Pain
 
Major Surgical or Invasive Procedure:
TEE/DCCV ___
Cardiac cath ___

 
History of Present Illness:
___ year old female with extensive cardiac history including 
ischemic cardiomyopathy with an EF of ___ who developed acute 
onset SOB, chest pain and rigors at home, prompting activation 
of EMS. On EMS arrival, she was given SL ntg with resolution of 
CP, and placed on BiPAP. In the ED at ___, she
remained on BiPAP and received IV Lasix. She also developed afib 
with RVR. She was admitted to the ICU, where she was treated 
with BiPAP, Lasix, antibiotics and an amiodarone drip. She was 
able to wean off of BiPAP and is now on PO amiodarone. An echo 
revealed moderate to severe MR with an eccentric, posterior 
directed jet. She is being transferred into ___ for 
consideration of mitral
clip.  

 
Past Medical History:
Ischemic cardiomyopathy EF ___
Acute systolic on chronic systolic congestive heart failure
Acute hypoxic respiratory failure
obesity
T2DM
ICD
Atrial fibrillation
Moderate mitral regurgitation
Pulmonary hypertension
Hyperlipidemia
Renal calculi
NSTEMI s/p cardiac arrest ___
CKD
s/p RF ablation x ___
s/p atrial septal defect repair in ___ 
s/p C-section x ___
s/p ventral hernia repair
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory.  

 
Physical Exam:
Admission PE:
VS:  ___ Temp: REPEAT PO BP: 109/63 L HR: 76 RR: 18 O2
sat: 97% O2 delivery: RA 
EKG: Vpaced 
Tele:  VPaced 
General: An overweight Middle Eastern woman in NAD
Neuro: NAD. A/O x3, follows command, non-focal  
Cardiac: Irregular. Distant S1S2. Murmur ___. JVD 8 cm
Lungs: Bilateral inspiratory rales. No resp distress. 
Abd: Obese. NBS. Soft. ND. NT 
Extremities: WWP. No ___ edema. B/L ___: 2+ palpable pulses  

Discharge PE:
VS: 97.5, 118/68, 60, 18, 97%ra
Wt: 82.2 ___ lb
Tele: Bi V paced ___. 
General: Awake, pleasant female ambulating in room, NAD
Neuro: Alert and oriented x4. Pleasant and cooperative.
HEENT: Neck supple, JVP nondistended 
CV: RRR, this is a normal S1 S2, ___ SEM apical
Lungs: LS CTA 
Abdomen: soft, non-tender, + BS x 4
PV: WWP, No edema
      

 
Pertinent Results:
Admission labs:
___ 10:00PM BLOOD UreaN-45* Creat-1.7* K-3.3*
___ 10:00PM BLOOD Mg-2.1

Chest xray ___:
FINDINGS:  
Heart is moderately enlarged.  Patient is status post 
sternotomy.  Three lead pacemaker/ICD device appears unchanged.  
Cardiac and mediastinal contours are stable.  Central pulmonary 
vessels are again mildly engorged.  The lungs appear clear.  No 
pleural effusion or pneumothorax. 
IMPRESSION:  
Unchanged mild vascular engorgement.

___ TEE/DVVC
TEE did not show any intracardiac thrombus.
DCCV with 200J external biphasic synchronized energy with prompt 
return to sinus rhythm.  
Pre-DCCV ECG: Atrial tachycardia, 85bpm
Post-DCCV ECG: Ap/Vp, 60bpm
IMPRESSION:
Successful electrical cardioversion of atrial tachycardia to
sinus rhythm.

___ TTE
CONCLUSION:
The left atrial volume index is moderately increased. The right 
atrium is moderately enlarged. There is normal left ventricular 
wall thickness with a mildly increased/dilated cavity. There is 
normal regional left ventricular systolic function. No thrombus 
or mass is seen in the left ventricle. Overall left ventricular 
systolic function is mildly depressed. The visually estimated 
left ventricular ejection fraction is 45-50%. Due to severity of 
mitral regurgitation, intrinsic left ventricular systolic 
function is likely lower. There is no resting left ventricular 
outflow tract gradient. Normal right ventricular cavity size 
with mild global free wall hypokinesis. Tricuspid annular plane 
systolic excursion (TAPSE) is depressed. The aortic sinus 
diameter is normal for gender with normal ascending aorta 
diameter for gender. The aortic arch diameter is normal with a 
normal descending aorta diameter. The aortic valve leaflets (3) 
appear structurally normal. There is no aortic valve stenosis. 
There is no aortic regurgitation. The mitral valve leaflets 
appear structurally normal with no mitral valve prolapse. There 
is SEVERE [4+] mitral regurgitation. The pulmonic valve leaflets 
are normal. The tricuspid valve leaflets appear structurally 
normal. There is mild [1+] tricuspid regurgitation. There is 
mild pulmonary artery systolic hypertension. There is no 
pericardial effusion. 
IMPRESSION: Dilated left ventricle with mild global systolic 
dysfunction. Severe functional mitral regurgitation. Mild 
pulmonary hypertension.
Compared with the prior TTE (images not available for review) of 
___, left ventricle is more dilated and severity of mitral 
regurgitation has increased.

___ Cardiac catheterization
Coronary Description
The coronary circulation is right dominant.
LM: The Left Main, arising from the left cusp, is a large 
caliber vessel. This vessel bifurcates into the Left Anterior 
Descending and Left Circumflex systems.
LAD: The Left Anterior Descending artery, which arises from the 
LM, is a large caliber vessel. The ___ Diagonal, arising from 
the proximal segment, is a medium caliber vessel. The ___ 
Diagonal, arising from the mid segment, is a medium caliber 
vessel.
Cx: The Circumflex artery, which arises from the LM, is a very 
small caliber vessel. The Obtuse Marginal, arising from the 
proximal segment, is a very small caliber vessel.
RCA: The Right Coronary Artery, arising from the right cusp, is 
a large caliber vessel. The Right Posterior Descending Artery, 
arising from the distal segment, is a medium caliber vessel. The 
Right Ventricular, arising from the distal segment, is a medium 
caliber vessel.
Interventional Details
Complications: There were no clinically significant 
complications.
Findings
• No angiographically apparent coronary artery disease.
 
Brief Hospital Course:
___ year old female with extensive cardiac history including 
ischemic cardiomyopathy with an EF of ___ who was admitted to 
___ with acute on chronic systolic heart failure, RAF with RVR 
now transferred to ___ for ___ eval. 

# A fib/ Atach:  RAF w RVR at OSH ED. Amiodarone gtt -> po 200mg 
daily. Now s/p successful ___ ___ and reports that she feels 
significantly better. INR 2.0 today.
- Continue po amiodarone
- Continue po metoprolol succinate
- Continue coumadin home 2.5mg; goal INR ___
- Resume follow up with Dr. ___ coumadin management 
per prior schedule

# Moderate to severe MR: Admitted to OSH, TTE showed moderate to 
severe MR and transferred for further evaluation. TEE & TTE 
after ___ confirm severe MR.  
- Structural heart consulted; Requested ___ consult who feel 
that she is high risk for MVR, recommend ___. Will be 
scheduled as an outpatient elective procedure in the next few 
weeks. 
- Continue home Lasix 40mg po daily dose, daily weights 
 --Instructed to call Dr. ___ weight gain >3 lbs in 1 day

# Acute on chronic systolic heart failure:  Has remained 
euvolemic on exam for multiple days on home regimen. CHF flare 
due to ?worsening MR vs afib/RVR.
Mod-severe MR confirmed, plan as above

# Cardiomyopathy: Previously thought to be ischemic given 
preliminary wall motion abnormality, but without coronary artery 
disease on multiple caths   
- BIV paced 
- continue metoprolol
- Heart failure management as above

# NSTEMI in ___ c/b cardiac arrest with wall motion abnormality 
on preliminary echo: Cath at that time revealed no sig CAD. No 
CAD on repeat catheterization this admission.
- continue pravastatin

#  CKD:  Creat stable at 1.8 today, 1.5-1.8 since ___. 
- Avoid nephrotoxins, renally dose medications

# Type II DM: No A1c documented in this system 
- Continue home glipizide

RESOLVED
========
#Community acquired PNA: CT at ___ shows CHF and multifocal PNA 
vs pulmonary edema. No respiratory distress. Oxygenating well on 
room air. Denies orthopnea or SOB. Completed 5 day course of 
azithromycin and IV ceftriaxone. PA/LAT at ___ on ___ 
revealing clear lungs. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Furosemide 40 mg PO DAILY 
2. Metoprolol Succinate XL 100 mg PO DAILY 
3. Warfarin 2.5 mg PO DAILY16 
4. GlipiZIDE 5 mg PO BID 
5. Losartan Potassium 50 mg PO DAILY 
6. Omeprazole 20 mg PO DAILY 
7. Amiodarone 200 mg PO DAILY 
8. Pravastatin 40 mg PO QPM 
9. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Amiodarone 200 mg PO DAILY  
2.  Furosemide 40 mg PO DAILY  
3.  GlipiZIDE 5 mg PO BID  
4.  Losartan Potassium 50 mg PO DAILY  
5.  Metoprolol Succinate XL 100 mg PO DAILY  
6.  Omeprazole 20 mg PO DAILY  
7.  Pravastatin 40 mg PO QPM  
8.  Vitamin D ___ UNIT PO DAILY  
9.  Warfarin 2.5 mg PO DAILY16  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute on Chronic Diastolic Heart Failure 
Ischemic Cardiomyopathy
Atrial Fibrillation with Rapid Ventricular Rate
Mitral Regurgitation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

 It was a pleasure taking care of you at the ___ 
___! 

 WHY WAS I IN THE HOSPITAL? 
 ========================== 
 - You were transferred from ___ to ___ for further care of 
your heart failure, and for consideration of a ___ 
procedure. 

 WHAT HAPPENED IN THE HOSPITAL? 
 ============================== 
- You received diuresis to remove excess fluid from the body 
that accumulates due to your heart failure. 
- You had a TEE/cardioversion to return your heart to a normal 
rhythm. 
- You had a cardiac catheterization that revealed no coronary 
artery disease. 
- The cardiac surgery team evaluated your for surgical 
intervention, but felt you were not an optimal candidate. 
- Dr. ___ comfortable sending you home today and would 
like to return for a ___. 

 WHAT SHOULD I DO WHEN I GO HOME? 
 ================================ 
 - Take all of your medications as prescribed (listed below).  
 - Follow up with your doctors as listed below 
 - Weigh yourself every morning, seek medical attention if your 
weight goes up more than 3 lbs. Please call Dr. ___ your 
weight goes up. 
 - Your weight at discharge is 91.6 kg / 201.9 kg
 - Please weigh yourself today at home and use this as your new 
baseline
 - You should call an ambulance for any chest pain experienced 
after discharge

 It was a pleasure participating in your care. 

 If you have any urgent questions that are related to your 
recovery from your hospitalization or are experiencing any 
symptoms that are concerning to you and you think you may need 
to return to the hospital, please call the ___ HeartLine at 
___ to speak to a cardiologist or cardiac nurse 
practitioner. 

 -Your ___ Care Team  

 
Followup Instructions:
___